US05795901
A stirred solution of 10.0 grams (0.018 mole) of N-[4-(cyclopropylmethoxy)phenylmethyl]-4-[bis(4-trifluoromethylphenyl)hydroxymethyl]piperidine in methylene chloride was cooled to 0° C., and 3.1 grams (0.01 2 mole) of 50% 3-chloroperoxybenzoic acid was added in two portions. Upon completion of the addition the reaction mixture was allowed to warm to ambient temperature, where it stirred for about 18 hours. After this time, the reaction mixture was poured into aqueous 5% sodium hydroxide solution. The organic layer was separated and washed with aqueous 5% sodium hydroxide solution. The organic layer was then filtered through phase separated silicone treated paper. The filtrate was concentrated under reduced pressure, yielding 10.2 grams of N-[4-(cyclopropylmethoxy)phenylmethyl]-4-[bis(4-trifluoromethylphenyl)hydroxy-methyl]piperidine N-oxide. The NMR spectrum was consistent with the proposed structure.

reactant | N-[4-(cyclopropylmethoxy)phenylmethyl]-4-[bis(4-trifluoromethylphenyl)hydroxymethyl]piperidine | 0.018 mole, 10.0 grams | C1(CC1)COC1=CC=C(C=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C31H31F6NO2
reactant | 3-chloroperoxybenzoic acid | 2 mole, 3.1 grams | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[4-(cyclopropylmethoxy)phenylmethyl]-4-[bis(4-trifluoromethylphenyl)hydroxy-methyl]piperidine N-oxide | 10.2 grams | C1(CC1)COC1=CC=C(C=C1)C[N+]1(CCC(CC1)C(O)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)[O-] | C31H31F6NO3
